US07977344B2
2-(Tetrahydro-2H-pyran-3-yl)ethyl methanesulfonate
A solution of 2-(tetrahydro-2H-pyran-3-yl)ethanol (1.54 gm) and triethylamine (3.3 ml) in dichloromethane (25 ml) was cooled (ice bath) and methanesulphonyl chloride (1.19 ml) added dropwise with stirring over 5 min. The reaction slowly warmed to ambient temperature as the ice bath melted. After 16 h the mixture was washed with saturated aq. sodium hydrogen carbonate, the aqueous layer extracted twice with dichloromethane and the combined extracts washed with dilute brine, dried by passing through a hydrophobic frit and evaporated to give the title compound as a brown oil, yield 2.38 g.

reactant | 2-(tetrahydro-2H-pyran-3-yl)ethanol | 1.54 gm | O1CC(CCC1)CCO | C7H14O2
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.19 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(Tetrahydro-2H-pyran-3-yl)ethyl methanesulfonate | CS(=O)(=O)OCCC1COCCC1 | C8H16O4S
